US08232287B2
1-(6-{[1-(1H-imidazol-1-ylcarbonyl)piperidin-4-yl]oxy}pyrimidin-4-yl)-5-(methylsulfonyl)indoline
1,1′-carbonyldiimidazole (67.0 mg, 0.413 mmol) was added to a THF (2.06 mL) solution of the 5-(methylsulfonyl)-1-[6-(piperidin-4-yloxy)pyrimidin-4-yl]indoline (103 mg, 0.275 mmol) produced in Reference Example 28, and the mixture was stirred at room temperature for 1 hour. From the reaction solution, the solvent was distilled off under reduced pressure. To the residue, water was added, and the mixture was stirred. The deposit was collected by filtration and washed with water to obtain the title compound as white powder (105 mg, yield: 82%).

reactant | 1,1′-carbonyldiimidazole | 0.413 mmol, 67.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-(methylsulfonyl)-1-[6-(piperidin-4-yloxy)pyrimidin-4-yl]indoline | 0.275 mmol, 103 mg | CS(=O)(=O)C=1C=C2CCN(C2=CC1)C1=NC=NC(=C1)OC1CCNCC1 | C18H22N4O3S
solvent | THF | 2.06 mL | C1CCOC1 | C4H8O
product | 1-(6-{[1-(1H-imidazol-1-ylcarbonyl)piperidin-4-yl]oxy}pyrimidin-4-yl)-5-(methylsulfonyl)indoline | 105 mg, yield: 82% | N1(C=NC=C1)C(=O)N1CCC(CC1)OC1=CC(=NC=N1)N1CCC2=CC(=CC=C12)S(=O)(=O)C | C22H24N6O4S
